US09028976B2
An amount of 3.85 g (11.5 mmol) of 3,4-diphenylacenaphthenequinone and 2.7 g (12.9 mmol) of 1,3-diphenyl-2-propanone were suspended in 50 ml of ethanol and a solution of 0.4 g of potassium hydroxide in ethanol was added. After the mixture was heated to the reflux temperature, the same amount of the solution of potassium hydroxide in ethanol was further added and allowed to react for five minutes. The solid substance deposited after cooled on ice was filtered and washed with ethanol to obtain 2.82 g (5.55 mmol) of 3,4,7,9-tetraphenylcyclopenta[a]acenaphthylene-8-one. The yield was 48.3%.

reactant | 3,4-diphenylacenaphthenequinone | 11.5 mmol, 3.85 g | C1(=CC=CC=C1)C1=C2C(C(C=3C=CC=C(C=C1C1=CC=CC=C1)C32)=O)=O | C24H14O2
reactant | 1,3-diphenyl-2-propanone | 12.9 mmol, 2.7 g | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)=O | C15H14O
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,4,7,9-tetraphenylcyclopenta[a]acenaphthylene-8-one | 5.55 mmol, 2.82 g, yield was 48.3% | C1(=CC=CC=C1)C1=C2C(=CC=C3C=4C(C(C=C1)=C32)=C(C(C4C4=CC=CC=C4)=O)C4=CC=CC=C4)C4=CC=CC=C4 | C39H24O
